US05028607
8-Carbamoyl -4-hydroxy-3-{2-[4-[(4-methylphenyl)-phenylmethylene]piperidino]ethyl}-2-methylimidazo[1,5-a]-pyrimidine hydrochloride
This compound was prepared from ethyl 2-acetyl-4-{4-[(4-methylphenyl)phenylmethylene]-1-piperidyl}-butyrate and 4-amino-5-carbamoyl imidazole hydrochloride according to the process described in Example 1.

reactant | ethyl 2-acetyl-4-{4-[(4-methylphenyl)phenylmethylene]-1-piperidyl}-butyrate | C(C)(=O)C(C(=O)OCC)CCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=C(C=C1)C | C27H33NO3
reactant | 4-amino-5-carbamoyl imidazole hydrochloride | Cl.NC=1N=CNC1C(N)=O
product | 8-Carbamoyl -4-hydroxy-3-{2-[4-[(4-methylphenyl)-phenylmethylene]piperidino]ethyl}-2-methylimidazo[1,5-a]-pyrimidine hydrochloride | Cl.C(N)(=O)C=1N=CN2C1N=C(C(=C2O)CCN2CCC(CC2)=C(C2=CC=CC=C2)C2=CC=C(C=C2)C)C | InChI=1S/C29H31N5O2.ClH/c1-19-8-10-22(11-9-19)25(21-6-4-3-5-7-21)23-12-15-33(16-13-23)17-14-24-20(2)32-28-26(27(30)35)31-18-34(28)29(24)36;/h3-11,18,36H,12-17H2,1-2H3,(H2,30,35);1H
